Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath and Heanturia
 
Major Surgical or Invasive Procedure:
None

___ sternal debridement
___ B/L Pectoralis Advance Flap 
___ Redo Sternotomy/Aortic Valve Replacement #23 mm porcine

 
History of Present Illness:
___ year old Male who presents from ___ with acute 
on chronic systolic CHF in the setting of recent aortic valve 
replacement. The patient was initially operated on ___ with a 
tissue valve which was done for critical aortic stenosis by Dr. 
___. He returned on ___ with a left groin hematoma and MSSA 
bacteremia which was from the sternotomy wound infection. This 
was consulted on by plastics surgery who operated on ___ and he 
was started on nafcillin for 6 weeks and a JP drain was placed, 
and sent to cardiac rehab on ___.
The morning of admission he was noted to be markedly dyspneic at 
rehab, and was sent to the ED at ___. There he was 
noted to be markedly anemic along with a severely elevated BNP 
of 246 (normal <64). He was transfused 1 unit of PRBCs. He was 
noticed to have asymetric pedal edema. A foley was placed to 
monitor diuresis, which unfortunately was a traumatic placement, 
and he had frank hematuria. He was given an additional 40mg IV 
Lasix. A chest x-ray there demonstrated small left pleural 
effusion, elevated hemidiaphragm (old) and bibasilar 
atelectasis. He was then transferred to ___ given recent 
surgery and concern with acute CHF in the perioperative period.
When he presented to the ED he was on 2L of 02 with 100% SAO2. 
Given the asymetric leg swelling a CTA-Chest was performed which 
was negative for PE. It did note increased fluid collection in 
the sternal wound. He reports that after the diuresis and 
transfusion his dyspnea did improve. He still feels unwell and 
not at his baseline. 

 
Past Medical History:
Past Medical History:
Coronary artery disease
Hypertension
Hyperlipidemia
Neuropathy (chest/abdomen-following previous CABG)
Paralyzed right hemidiaphram after CABG
brachial plexis injury left arm after CABG 
Aortic insufficiency/stenosis
Benign Prostatic Hyperplasia
GI Bleed - ___ ? related to motrin
Aflutter
Past Surgical History;
A.Flutter ablation ___
CABG ___
Bilateral Rotator Cuff 
Melanoma excised from back
Bilateral cataract surgery
Past Cardiac Procedures
Surgery: CABG x 3 @ ___ with ___: ___
AVR (Tissue valve) ___ with Dr. ___
 
___ History:
___
Family History:
Father died at ___ from "heart disease"

 
Physical Exam:
ROS:
GEN: - fevers, - Chills, - Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia, + legedema
PULM: + Dyspnea, - Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, - Headache
 
PHYSICAL EXAM:
VSS: 98.1, 128/66, 73, 20, 98%
GEN: NAD
Pain: ___
HEENT: EOMI, MMM, - OP Lesions
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT
EXT: - CCE
NEURO: CAOx3, Non-Focal
DERM: Sternotomy wound bandaged, JP with SS Fluid
 
Pertinent Results:
___ 09:20PM   GLUCOSE-135* UREA N-12 CREAT-1.2 SODIUM-143 
POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-31 ANION GAP-12
___ 09:20PM   LD(LDH)-274* CK(CPK)-68 TOT BILI-0.3
___ 09:20PM   CK-MB-3 cTropnT-0.02*
___ 09:20PM   WBC-6.6 RBC-2.93* HGB-8.9* HCT-28.2* MCV-97 
MCH-30.5 MCHC-31.6 RDW-14.8
___ 09:20PM   PLT COUNT-441*
___ 09:20PM   ___ PTT-38.2* ___
___ 05:48AM BLOOD WBC-6.0 RBC-3.00* Hgb-9.2* Hct-28.6* 
MCV-96 MCH-30.8 MCHC-32.2 RDW-14.9 Plt ___
___ 12:41PM BLOOD WBC-4.1 RBC-2.83* Hgb-8.7* Hct-27.7* 
MCV-98 MCH-30.7 MCHC-31.3 RDW-14.7 Plt ___
___ 04:03AM BLOOD WBC-4.9 RBC-2.69* Hgb-8.4* Hct-26.2* 
MCV-98 MCH-31.2 MCHC-32.0 RDW-14.9 Plt ___
___ 05:48AM BLOOD ___
___ 04:03AM BLOOD ___ PTT-36.5 ___
___ 05:51AM BLOOD ___ PTT-38.4* ___
___ 05:48AM BLOOD Glucose-99 UreaN-14 Creat-1.2 Na-139 
K-3.7 Cl-98 HCO3-33* AnGap-12
___ 12:41PM BLOOD Glucose-104* UreaN-12 Creat-1.3* Na-138 
K-4.2 Cl-97 HCO3-32 AnGap-13
___ 04:03AM BLOOD Glucose-102* UreaN-12 Creat-1.1 Na-140 
K-3.8 Cl-100 HCO3-34* AnGap-10

CTA CHEST W&W/O C&RECONS, NON-CORONARY Study Date of ___ 
9:32 ___  
IMPRESSION: 
1.  No evidence of pulmonary embolism. 
2.  Status post interval revision of sterntomy with drain 
placement.  Interval increase in size of a presternal fluid 
collection now measuring 12.9 x 2.2 cm, with a similar degree of 
surrounding stranding, but now containing a surgical drain.   
3.  Slight new resorption along upper sternotomy margins, which 
may be an 
early healing response although there is no bony bridging; bone 
infection 
cannot be excluded by this study, however.
4.  Basilar opacities, probably atelectasis, with a small 
right-sided pleural effusion. 
 
TTE ___
Conclusions  
The left atrium is mildly dilated. The right atrium is 
moderately dilated. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Right ventricular chamber size and free 
wall motion are normal. A bioprosthetic aortic valve prosthesis 
is present. The aortic valve prosthesis appears well seated, 
with normal leaflet/disc motion and transvalvular gradients. No 
masses or vegetations are seen on the aortic valve, but cannot 
be fully excluded due to suboptimal image quality. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. No mass or vegetation is seen on the mitral valve. 
Trivial mitral regurgitation is seen. [Due to acoustic 
shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] No masses or vegetations are seen 
on the tricuspid valve, but cannot be fully excluded due to 
suboptimal image quality. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion. 
IMPRESSION: Suboptimal image quality. There are no valvular 
vegigations seen on transthoracic echo, however this would be 
better evaluated with TEE. Well-seated, normally functioning AV 
bioprothesis. Mild symmetric LVH with preserved regional and 
global biventricular systolic function. 
Compared with the prior study (images reviewed) of ___ the 
degree of tricuspid regurgitation has decreased

 
Brief Hospital Course:
Medicine Course
Acute systolic CHF: The patient presented from his cardiac 
rehabilitation facility with dyspnea on exertion. He was found 
to have an elevated BNP on evaluation, and his respiratory 
status improved following administration of 40mg lasix in the 
OSH ED. He additionally relates a history of orthopnea and 
recent increase in lower extremity edema, leading to suspicion 
for volume overload in the setting of heart failure as the cause 
for his dyspnea. There is no evidence of a suddent right sided 
event such as a PE based on the CTA. Abdominal and Pelvic CTA 
showed 4.6 x 3.1 cm fluid collection adjacent to the left common 
femoral vessels, which may represent a prior hematoma. The study 
was not tailored for evaluation for active bleeding, but the 
fluid in this collection is low density without evidence for 
extravasation of contrast. There is no evidence of an acute MI 
by troponin. The patient's most recent echocardiogram, s/p AVR, 
noted a depressed EF of 40-45%, however, a TTE done on admission 
showed a normal preserved EF. Cardiology was consulted, who felt 
that the patient's presentation was consistent with acute CHF, 
and the patient was started on BID lasix with strict I/Os and 
volume restriction. 

Sternotomy Wound Abscess: the patient was evaluated by plastic 
surgery, who elected not to remove his JP drain on ___ as 
previously scheduled due to the interval increase in size of 
fluid collection on CT scan. The JP drain will be removed by 
plastic surgery in ___ weeks as an outpatient. The patient was 
continued on nafcillin for MSSA coverage on admission. 

Atrial Fibrillation: the patient was noted to be in sinus rhythm 
on admission. He was continued on his home amiodarone and 
metoprolol regimen. His INRs were 2.2 and 2.1 on admission, and 
he was continued on his warfarin regimen with goal INR ___. 
Frank hematuria: the patient presented with frank hematuria due 
to traumatic foley placement at the OSH before transfer to 
___. He has a history of BPH but did not recently have any 
urinary retention. His foley catheter was removed on hospital 
day 1 and he passed his voiding trial, with rapid clearing of 
the hematuria.
 
Peripheral Neuropathy: the patient was continued on his home 
regimen of gabapenin, lidocaine, and tramadol on admission. 

On HD3, he was transferred to the cardiac service.  He was 
transfused 1 unit PRBC for Hct 27.7, which increased to 28.6.  
He was continued on Coumadin for Atrial fibrillation with a 
therapeutic INR.  He was diuresed with Lasix BID + Zaroxyln with 
improvement of shortness of breath. CXR showed small bilateral 
pleural effusions.  Plastic surgery was re-consulted to evaluate 
possibility of discontinuing the JP drain but the drains are to 
remain in place until his follow up appointment with Dr. ___. 
By HD 5, he was ambulating in the hallways with a walker, 
tolerating a full po diet, his hematocrit was stable, and his 
edema had decreased. He is to continue with Nafcillin for a 6 
week course via PICC for MSSA bacteremia.  He is to remain on 
Lasix po for peripheral edema and diastolic heart failure until 
follow up visit with Dr ___. It was felt he was safe for 
tranfer to ___ rehab at this time.

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Buprenorphine HCl 75 ml PO ONCE A DAY 
2. Clonazepam 0.5 mg PO QHS:PRN anxiety 
3. Nitroglycerin SL 0.4 mg SL PRN chest pain 
4. Omeprazole 20 mg PO DAILY 
5. Simvastatin 40 mg PO DAILY 
6. Terazosin 2 mg PO HS 
7. Aspirin 81 mg PO DAILY 
8. Acetaminophen 325-650 mg PO Q6H:PRN pain/fever 
9. Albuterol-Ipratropium ___ PUFF IH Q6H 
10. BuPROPion 75 mg PO DAILY 
11. Metoprolol Tartrate 25 mg PO TID 
hold for HR<60, SBP<95mmHg 
12. Nafcillin 2 g IV Q4H Duration: 6 Weeks 
start date ___. Polyethylene Glycol 17 g PO DAILY 
14. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
15. Amiodarone 200 mg PO DAILY 
16. Cepacol (Menthol) 1 LOZ PO PRN sore throat 
17. Docusate Sodium 100 mg PO BID 
18. Lidocaine 5% Patch 1 PTCH TD DAILY 
left groin 
19. Gabapentin 600 mg PO TID 
20. ___  MD to order daily dose PO DAILY 
___ dose 5 mg target INR ___ 
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain/fever 
2. Albuterol-Ipratropium ___ PUFF IH Q6H 
3. Amiodarone 200 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. BuPROPion (Sustained Release) 200 mg PO QAM 
6. Clonazepam 0.5 mg PO QHS:PRN anxiety 
7. Docusate Sodium 100 mg PO BID 
8. Gabapentin 600 mg PO TID 
9. Lidocaine 5% Patch 1 PTCH TD DAILY 
left groin 
10. Metoprolol Tartrate 25 mg PO TID 
hold for HR<60, SBP<95mmHg 
11. Nafcillin 2 g IV Q4H Duration: 6 Weeks 
start date ___. Nitroglycerin SL 0.4 mg SL PRN chest pain 
13. Omeprazole 20 mg PO DAILY 
14. Polyethylene Glycol 17 g PO DAILY 
15. Simvastatin 40 mg PO DAILY 
16. Terazosin 2 mg PO HS 
17. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
18. ___  MD to order daily dose PO DAILY 
___ dose 5 mg
target INR ___ 
19. Furosemide 60 mg PO BID 
please ajust lasix but avoid holding due to diastolic heart 
failure 
20. Potassium Chloride 20 mEq PO BID Duration: 24 Hours 
Hold for K >4.5 
21. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Shortness of breath and Hematuria

Recent Procedures: 
___ sternal debridement
___ B/L Pectoralis Advance Flap 
___ Redo Sternotomy/Aortic Valve Replacement #23 mm porcine

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Ultram
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left 2+ Edema, Right leg 1+ edema 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___